US07893093B2
To a solution of 2,2,3,3,3-pentafluoro-1-(4-fluorophenyl)propan-1-one (13.0 g, 53 mmol) in a mixture 1:1 of dichloromethane and toluene (160 mL) at room temperature, 1M solution of S-methyl-CBS-oxazaborolidine in toluene (5.3 mL, 5.3 mmol) was added at room temperature. The reaction mixture was cooled at −78° C. and catecholborane (7.62 g, 63 mmol) was added. After stirring for 7 h at −78° C., a 4 M solution of HCl in dioxane (18 mL) was added. After allowing the reaction mixture to warm to room temperature, water (5 mL) was added, stirred for 5 min and 10% solution of sodium metabisulfite (25 mL) was added. The heterogeneous mixture was stirred for 15 min and the solid was separated by filtration. The solution was concentrated on rotovap to reduce the amount of dichloromethane and then the residue was diluted with hexanes (100 mL). The resulting solution was washed with a 10% solution of sodium metabisulfite (100 mL) and brine (100 mL). After drying over magnesium sulfate, the solution was concentrated and the crude was purified on a silica gel column, using dichloromethane as eluent to give (R)-2,2,3,3,3-pentafluoro-1-(4-fluorophenyl)propan-1-ol as an oil (12.01 g).

reactant | 2,2,3,3,3-pentafluoro-1-(4-fluorophenyl)propan-1-one | 53 mmol, 13.0 g | FC(C(=O)C1=CC=C(C=C1)F)(C(F)(F)F)F | C9H4F6O
reactant | catecholborane | 63 mmol, 7.62 g | [B]1OC2=CC=CC=C2O1 | C6H4BO2
reactant | HCl | Cl | ClH
reactant | sodium metabisulfite | 25 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 5.3 mmol, 5.3 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2,2,3,3,3-pentafluoro-1-(4-fluorophenyl)propan-1-ol | 12.01 g | FC([C@H](O)C1=CC=C(C=C1)F)(C(F)(F)F)F | C9H6F6O
